US06515163B2
A solution of 5, 7-difluoro-1-tetralone [110931-79-8] (prepared in accordance with DE-A 3702039) in tetrahydrofuran is added to an equimolar amount of an allylmagnesium bromide solution in ether at 0° C. The reaction mixture is subjected to conventional aqueous acidic workup (Mohammadi et al., J. Lab. Cpd. Radiopharm. XXIV, 317 (1987)) and distillation. The 5,7-difluoro-1-(1-propen-3-yl)-3,4-dihydronaphthalene obtained is reacted with an equimolar amount of thexyl-borane in terahydrofuran to give B-thexyl6,8-difluoro-2,3,4,4a,9,9a,10-octahydro-1-boraphenanthrene which is reacted with equimolar amounts of sodium cyanide at room temperature without further characterization. After 2 h, an equimolar amount of trifluoroacetic anhydride (TFAA) is added dropwise at −75° C., and the mixture is brought to room temperature with stirring. 3 equivalents of NaOH are added and the mixture is oxidized with 50% H2O2, finally at 50° C.; extraction and chromatography yield 1-keto6,8-difluoro-1,2,3,4,4a,9,9a,10-octahydrophenanthrene. As described by Mohammadi et al., J. Lab. Cpd. Radiopharm. XXIV, 317 (1987), this product can be converted into 1-keto-6,8-difluoro-2-propyl-1,2,3,4,4a,9,9a,10-octahydrophenanthrene by reacting with lithium diisopropylamide (LDA) followed by addition of n-propyl bromide. This product can be converted into 6,8-difluoro-1,2,3,4,4a,9,9a,10-octahydrophenanthrene by reducing with triethylsilane in trifluoroacetic acid. 6,8-Di-fluoro-7-pentyl-2-propyl-1,2,3,4,4a,9,9a,10-octahydrophenanthrene is obtained by ortho metalation using “Schlosser base” (i.e. butyllithium and potassium tert-butylate; see, for example: F. Mongin, M. Schlosser, Tetrahedron Lett. 1996, 37, 6551-6554) at −75° C., quenching with n-pentyl bromide and conventional workup by hydrolysis, extraction, chromatography (silica gel, dichloromethane) and repeated recrystallization (to increase the proportion of the desired isomer, among other things).

reactant | 5, 7-difluoro-1-tetralone | FC1=C2CCCC(C2=CC(=C1)F)=O | C10H8F2O
reactant | allylmagnesium bromide | C(C=C)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5,7-difluoro-1-(1-propen-3-yl)-3,4-dihydronaphthalene | FC1=C2CCC=C(C2=CC(=C1)F)CC=C | C13H12F2
